US06730791B2
Step D: Preparation of 4-(Cyclopropylcarbonyl)benzeneacetic acid
Add purified [4-(4-chloro-1-oxobutyl)]-N-methoxy-N-methyl-benzeneacetamide (9.4 g, 330 mmol) to a solution of potassium hydroxide (22.0 g) in ethanol (160 mL). Stir 18 hours. Pour the solution into dilute hydrochloric acid (30 mL of concentrated hydrochloric acid in 500 mL of water). Extract the solution with three 500-mL portions of ethyl acetate. Dry the combined organic phases over anhydrous magnesium sulfate and concentrate to give the title compound (6.4 g, 95%).

reactant | [4-(4-chloro-1-oxobutyl)]-N-methoxy-N-methyl-benzeneacetamide | 330 mmol, 9.4 g | ClCCCC(=O)C1=CC=C(C=C1)CC(=O)N(C)OC | C14H18ClNO3
reactant | potassium hydroxide | 22.0 g | [OH-].[K+]
reactant | hydrochloric acid | 30 mL | Cl | ClH
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 4-(Cyclopropylcarbonyl)benzeneacetic acid | 6.4 g, 95% | C1(CC1)C(=O)C1=CC=C(C=C1)CC(=O)O | C12H12O3
